US07592457B2
5,7-dichloro-3-methyl-3-(4-nitro-phenyl)-1H-quinoline-2,4-dione
To a suspension of sodium hydride (50 mg, 1.25 mmol, 60% in mineral oil) in dry THF (20 mL) was added a solution of 4,6-dichloro-2-[2-(4-nitro-phenyl)-propionylamino]-benzoic acid methyl ester (0.20 g, 0.50 mmol) in THF anhydride (5 mL) at 0° C. The reactant was stirred for 5 hours, and the reaction was quenched by addition of 0.5M HCl solution (30 mL). The resultant was extracted with ethyl acetate (50 mL×3), washed with water (50 mL×2) and brine (50 ml×2) and dried over magnesium sulfate anhydride. After evaporation of solvent, the pure objective compound (0.18 g, 99%) was obtained as pale yellow solid by a recrystallization (dichloromethane:EtOAc 3:1): 1H NMR (200 MHz, CDCl3) δ 1.79 (s, 3H, CH3), 6.80 (d, J=1.8 Hz, 1H, ArH), 7.15 (d, J=1.8 Hz, 1H, ArH), 7.38 (d, J=9.0 Hz, 2H, ArH), 8.18 (d, J=9.0 Hz, 2H), 8.43 (s, 1H, NH); MS(EI) m/e 364 [M+].

reactant | sodium hydride | 1.25 mmol, 50 mg | [H-].[Na+]
reactant | 4,6-dichloro-2-[2-(4-nitro-phenyl)-propionylamino]-benzoic acid methyl ester | 0.50 mmol, 0.20 g | COC(C1=C(C=C(C=C1Cl)Cl)NC(C(C)C1=CC=C(C=C1)[N+](=O)[O-])=O)=O | C17H14Cl2N2O5
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 5,7-dichloro-3-methyl-3-(4-nitro-phenyl)-1H-quinoline-2,4-dione | 0.18 g, 99% | ClC1=C2C(C(C(NC2=CC(=C1)Cl)=O)(C1=CC=C(C=C1)[N+](=O)[O-])C)=O | C16H10Cl2N2O4
